US06417212B1
A solution of 2-{4-[2-(2-biphenyl-4-yl-5-methyloxazol-4-yl)ethoxy]-3-butylphenoxy}-2-methylpropionic acid ethyl ester (0.57 mmol) in ethanol (10 mL) was treated with 2.5 N aqueous NaOH (1.1 mL), and heated at 55° C. for 2 h. The reaction was cooled to ambient temperature and concentrated down to near dryness. The residue was then diluted with ethyl acetate (40 mL) and water (20 mL) and acidified to pH=1 with 1N aqueous HCl. The organic layer was washed with brine (20 mL), dried (Na2SO4) and concentrated in vacuo to give 2-{4-[2-(2-biphenyl-4-yl-5-methyloxazol-4-yl)ethoxy]-3-butylphenoxy}-2-methylpropionic acid. 1H NMR (400 MHz, CDCl3) δ8.04 (d, J=8.3 Hz, 2H), 7.68-7.62 (m, 4H), 7.46 (t, J=6.6 Hz, 2H), 7.38 (t, J=7.3 Hz, 1H), 6.74 (s, 3H), 4.21 (t, J=6.1 Hz, 2H), 3.01 (t, J=6.4 Hz, 2H), 2.40 (s, 3H), 1.52-1.43 (m, 8H), 1.32-1.24 (m, 2H), 0.87 (t, J=7.3 Hz, 3H); MS (ES) m/e 514 (M+1).

reactant | 2-{4-[2-(2-biphenyl-4-yl-5-methyloxazol-4-yl)ethoxy]-3-butylphenoxy}-2-methylpropionic acid ethyl ester | 0.57 mmol | C(C)OC(C(C)(C)OC1=CC(=C(C=C1)OCCC=1N=C(OC1C)C1=CC=C(C=C1)C1=CC=CC=C1)CCCC)=O | C34H39NO5
reactant | NaOH | 2.5 N, 1.1 mL | [OH-].[Na+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 2-{4-[2-(2-biphenyl-4-yl-5-methyloxazol-4-yl)ethoxy]-3-butylphenoxy}-2-methylpropionic acid | C1(=CC=C(C=C1)C=1OC(=C(N1)CCOC1=C(C=C(OC(C(=O)O)(C)C)C=C1)CCCC)C)C1=CC=CC=C1 | C32H35NO5
